US08648066B2
A suspension of 5-bromo-1-methyl-1H-indazole (150 mg, 0.71 mmol), bis(pinacolato)diboron (200 mg, 0.78 mmol), potassium acetate (206 mg, 2.10 mmol), and dichloro[1,1-bis(diphenylphosphino]ferrocenepalladium (II) dichloromethane adduct (36 mg, 0.04 mmol) in dimethyl sulfoxide (4 mL) was degassed with nitrogen, and then stirred at 80° C. for 18 h. The reaction mixture was cooled to room temperature and partitioned between water and ethyl acetate. The mixture was filtered through celite and then the layers were separated. The aqueous layer was extracted with ethyl acetate (2×), the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography on silica (hexanes/ethyl acetate 7:3) provided 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-methyl-1H-indazole (158 mg, 86% yield) as a yellow oil. MS (EI) for C14H19BN2O2: 259 (MH+).

reactant | 5-bromo-1-methyl-1H-indazole | 0.71 mmol, 150 mg | BrC=1C=C2C=NN(C2=CC1)C | C8H7BrN2
reactant | bis(pinacolato)diboron | 0.78 mmol, 200 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.10 mmol, 206 mg | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-methyl-1H-indazole | 158 mg, 86% yield | CC1(OB(OC1(C)C)C=1C=C2C=NN(C2=CC1)C)C | C14H19BN2O2
